US04283420
1. ethyl 1-1-hydroxyethyl-1-cyclohexyl-carboxylate
A solution of lithium isopropylamidide was prepared from 300 cm3 butyl lithium 1.5 M in hexane and 52 g of diisopropylamine. At -40° C. 62.4 g (0.4 mole) of ethyl cyclohexyl-carboxylate were added, then at -80° C. 17.6 g of acetaldehyde were also added. The solvent was evaporated off and the mixture was poured into acid ice water. After extraction with benzene the ether was distilled off and a colourless liquid was obtained.

reactant | lithium | [Li] | Li
reactant | butyl lithium | 1.5 M, 300 cm3 | C(CCC)[Li]
reactant | ethyl cyclohexyl-carboxylate | 0.4 mole, 62.4 g | C1(CCCCC1)C(=O)OCC | C9H16O2
reactant | acetaldehyde | 17.6 g | C(C)=O | C2H4O
solvent | hexane | CCCCCC | C6H14
solvent | diisopropylamine | 52 g | C(C)(C)NC(C)C | C6H15N
product | ethyl 1-1-hydroxyethyl-1-cyclohexyl-carboxylate | OC(C)C1(CCCCC1)C(=O)OCC | C11H20O3
